US08049015B2
4-Bromo-3-methyl-benzoic acid ethyl ester (18.24 g, 75.4 mmol), N-bromosuccinimide (14.1 g, 79.2 mmol), and benzoyl peroxide (0.9 g, 3.77 mmol) were combined in CCl4, and the reaction was heated to 80° C. and stirred with a halogen desk lamp shining on it for 6 hours. The mixture was concentrated and partitioned between CH2Cl2 and H2O. The organic layer was separated and washed with H2O and brine, and then dried and concentrated. The residue was triturated with hexane (3×50 mL) and dried to give 4-bromo-3-bromomethyl-benzoic acid ethyl ester.

reactant | 4-Bromo-3-methyl-benzoic acid ethyl ester | 75.4 mmol, 18.24 g | C(C)OC(C1=CC(=C(C=C1)Br)C)=O | C10H11BrO2
reactant | N-bromosuccinimide | 79.2 mmol, 14.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.77 mmol, 0.9 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-3-bromomethyl-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Br)CBr)=O | C10H10Br2O2
